US04421758
(a) Trans-6-(4-fluorophenoxymethyl)-2-[3-chloro-1-(4-fluorophenyl)propoxy]tetrahydropyran
One drop of phosphorus oxytrichloride was added to a solution of 222 mg of 3-chloro-1-(4-fluorophenyl)propanol and 233 mg of 2-(4-fluorophenoxymethyl)-3,4-dihydro-2H-pyran in 5 ml of diethyl ether, and the mixture was stirred at room temperature for 2 days. At the end of this time, 2 drops of triethylamine were added, the solvent was evaporated off and the residue was purified by column chromatography through silica gel, to give 245 mg of the title compound.

reactant | 3-chloro-1-(4-fluorophenyl)propanol | 222 mg | ClCCC(O)C1=CC=C(C=C1)F | C9H10ClFO
reactant | 2-(4-fluorophenoxymethyl)-3,4-dihydro-2H-pyran | 233 mg | FC1=CC=C(OCC2OC=CCC2)C=C1 | C12H13FO2
catalyst | phosphorus oxytrichloride | One drop | O=P(Cl)(Cl)Cl | Cl3OP
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | Trans-6-(4-fluorophenoxymethyl)-2-[3-chloro-1-(4-fluorophenyl)propoxy]tetrahydropyran | 245 mg | FC1=CC=C(OC[C@H]2CCC[C@@H](O2)OC(CCCl)C2=CC=C(C=C2)F)C=C1 | C21H23ClF2O3
